US08859580B2
9-Hydroxy-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocine-3-carboxylic acid tert-butyl ester
Di-tertbutyl dicarbonate (8.7 g) is added to a solution of 6,11,11-trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocin-9-ol (12.0 g) and triethylamine (8 ml) in dioxane (100 mL) and water (100 mL). The solution is stirred at room temperature overnight. Then, ethyl acetate is added and the organic phase is separated. The aqueous phase is extracted with ethyl acetate and the organic extract and phase are combined. The organic phase is washed with 1 M hydrochloric acid, water, and brine, and then dried (MgSO4). After removal of the solvent under reduced pressure, the residue is crystallized from diisopropylether to give the title compound.

reactant | Di-tertbutyl dicarbonate | 8.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 6,11,11-trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocin-9-ol | 12.0 g | CC12C3=C(CC(NCC1)C2(C)C)C=C(C=C3)O | C15H21NO
reactant | triethylamine | 8 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | water | 100 mL | O | H2O
product | 9-Hydroxy-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CC3=C(C(CC1)(C2(C)C)C)C=CC(=C3)O | C20H29NO3
